US07491732B2
A dry reaction flask was charged with 4-nitrophenol (3.858 g, 27.75 mmol), anhydrous K2CO3 (8.29 g, 60 mmol) and acetone (250 mL). To this heterogeneous mixture was added 2-pyridylmethylbromide hydrobromide (7.0 g, 27.75 mmol) and refluxed for 24 h. From the resulting reaction mixture, 200 mL of acetone was removed under reduced pressure. The resulting residue was then diluted with ice-water (1 liter), the solid crushed out was filtered, washed with water and dried well to give 2-[(4-nitrophenoxy)methyl]pyridine (6.05 g, 95% yield). 1H NMR (CDCl3): δ 8.61 (d, 1H, J=4.8 Hz), 8.19 (d, 2H, J=9.0 Hz), 7.72 (m, 2H), 7.46 (d, 1H, J=7.8 Hz), 7.25 (m, 1H), 7.05 (d, 2H, J=9.3 Hz), 5.28 (s, 2H); LCMS (m/z): 231 (MH+).

reactant | 4-nitrophenol | 27.75 mmol, 3.858 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | K2CO3 | 60 mmol, 8.29 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-pyridylmethylbromide hydrobromide | 27.75 mmol, 7.0 g | Br.N1=C(C=CC=C1)CBr
solvent | acetone | 200 mL | CC(=O)C | C3H6O
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 2-[(4-nitrophenoxy)methyl]pyridine | 6.05 g, 95% yield | [N+](=O)([O-])C1=CC=C(OCC2=NC=CC=C2)C=C1 | C12H10N2O3
